US04636521
(i) 5-Bromo-3-(1-methyl-2-nitroethyl)-1H-indole
Methyl iodide (35.5 g) was added to a stirred suspension of magnesium (4.8 g) in dry ether (100 ml) over a period of 10 min. To the grey solution was added a solution of 5-bromo-3-(2-nitroethenyl)-1H-indole (13.4 g) in dry tetrahydrofuran (250 ml) over a period of 11/2 h. The resulting mass was stirred vigorously for 12 h, followed by the careful addition of saturated ammonium chloride (250 ml). After separation of the organic phase, the aqueous phase was extracted with ether (500 ml). The combined organic extracts were successively washed with 5% sodium sulphite solution (500 ml) and water (500 ml). Evaporation of the dried (MgSO4) ethereal phase gave a brown oil which was chromatographed on Kieselgel 60 using diethyl ether as eluant to give the title compound as a yellow gum (7.03 g) T.L.C. silica/diethyl ether Rf 0.5.

reactant | Methyl iodide | 35.5 g | CI | CH3I
reactant | magnesium | 4.8 g | [Mg] | Mg
reactant | 5-bromo-3-(2-nitroethenyl)-1H-indole | 13.4 g | BrC=1C=C2C(=CNC2=CC1)C=C[N+](=O)[O-] | C10H7BrN2O2
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 5-Bromo-3-(1-methyl-2-nitroethyl)-1H-indole | 7.03 g | BrC=1C=C2C(=CNC2=CC1)C(C[N+](=O)[O-])C | C11H11BrN2O2
